US08053165B2
Synthesis of (1-hydroxymethyl-1-cyclopentyl)methyl methacrylate (Monomer 3)
In a nitrogen atmosphere, a mixture of 268 g of diethyl tetramethylenemalonate (which had been synthesized from diethyl malonate and 1,4-dibromobutane by a malonate synthesis standard technique) and 400 ml of tetrahydrofuran was added dropwise to a mixture of 80.0 g of lithium aluminum hydride (LiAlH4) and 1,000 ml of tetrahydrofuran under ice cooling. The reaction mixture was stirred for 3 hours at room temperature, after which it was ice cooled again. To the reaction mixture which was kept below 30° C. and vigorously stirred, 80 ml of water, 80 ml of a 15% sodium hydroxide aqueous solution, and 240 ml of water were added dropwise in sequence. The resulting crystals were filtered off. The filtrate was concentrated in vacuum, obtaining 150 g (crude yield 92%) of a crude product. By the same procedure as in Synthesis Example 2-2 except that the crude product was used instead of norbornane-2,2-dimethanol, it was converted into a methacryloyl form, obtaining the target compound (yield 35%).

reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
reactant | malonate | C(CC(=O)[O-])(=O)[O-]
reactant | lithium aluminum hydride | 80.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | tetrahydrofuran | 1,000 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | water | 240 ml | O | H2O
solvent | water | 80 ml | O | H2O
product | (1-hydroxymethyl-1-cyclopentyl)methyl methacrylate | yield 35% | C(C(=C)C)(=O)OCC1(CCCC1)CO | C11H18O3
